US06858638B2
3-(1H-Benzimidazol-2-yl)-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-5-yl-amine can be obtained in the following way: 485 mg of powdered iron are added, in small fractions, to a solution, brought to reflux, of 350 mg of 3-(1H-benzimidazol-2-yl)-5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole, of 15 ml of ethanol, of 200 μl of distilled water and of 320 μl 12N hydrochloric acid and the mixture is maintained at reflux for 16 hours. After returning to a temperature in the region of 20° C., the medium is diluted with 60 ml of ethanol, stirred, and then filtered through a bed of Celite® 535, which is then washed with ethanol. The filtrate is basified to a pH in the region of 9 with a saturated aqueous sodium hydrogencarbonate solution. The precipitate thus formed is removed by filtration, and washed with ethanol, and the filtrate is then concentrated to dryness under reduced pressure. The evaporation residue is dissolved in distilled water and extracted with ethyl acetate. The pooled organic extracts are dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure. 130 mg of 3-(1H-benzimidazol-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-5-ylamine are thus obtained in the form of an orange lac (Rf=0.34, silica gel thin layer chromatography, eluent: cyclohexane/ethyl acetate (50/50 by volume); mass analysis: EI: m/z 379 (M+.) (base peak), m/z 306).

reactant | 3-(1H-benzimidazol-2-yl)-5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole | 350 mg | N1C(=NC2=C1C=CC=C2)C2=NN(C1=CC=C(C=C21)[N+](=O)[O-])COCC[Si](C)(C)C | C20H23N5O3Si
reactant | water | 200 μl | O | H2O
reactant | hydrochloric acid | 12N, 320 μl | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | iron | 485 mg | [Fe] | Fe
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-(1H-benzimidazol-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-5-ylamine | 130 mg | N1C(=NC2=C1C=CC=C2)C2=NN(C1=CC=C(C=C21)N)COCC[Si](C)(C)C | C20H25N5OSi
